US06063932
α-(chloromethyl)-4'-[(difluoromethyl)thio][1,1'-biphenyl]-4-methanol
A mixture of 3.0 g of 2-chloro-1-[4'-[(difluoromethyl)thio][1,1'-biphenyl]-4-yl]ethanone, 15 mL of THF, and 2 mL of pH 7 buffer was cooled to 5-10° C. 160 mg of NaBH4 was added, and stirring was continued for 1 h. The mixture was concentrated and triturated with water, filtered, and the solids were washed with hexane and dried in vacuo to afford 2.4 g (80%) of product, m.p. 66-68° C. 1H-NMR(CDCl3): δ2.82 (d, 1H, OH), 3.7 (ddd, 2H), 4.95 (m, 1H), 6.85 (t, 1H, J=60 Hz), 7.5 (d of AB q, 2H), 7.6 (m, 6H).

reactant | 2-chloro-1-[4'-[(difluoromethyl)thio][1,1'-biphenyl]-4-yl]ethanone | 3.0 g | ClCC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)SC(F)F | C15H11ClF2OS
reactant | NaBH4 | 160 mg | [BH4-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | α-(chloromethyl)-4'-[(difluoromethyl)thio][1,1'-biphenyl]-4-methanol | 2.4 g, 80% | ClCC(O)C1=CC=C(C=C1)C1=CC=C(C=C1)SC(F)F | C15H13ClF2OS
